US05514680
A mixture of 2-acetamido-5-bromo-3-nitrobenzotrifluoride (400 mg, 1.258 mmol) in concentrated HCl (3.5 mL) was refluxed overnight, then it was extracted by ethyl acetate (2×3 mL). The extract was dried over Mg2SO4 and evaporated to give 261 mg (75.6%) of 2-amino-5-bromo-3-nitrobenzotrifluoride. 1H NMR (CDCl3): δ6.663 (S, 2H); 7.825 (d, 1H, J=1.2 Hz); 8.487 (d, 1H, J=1.2 Hz).

reactant | 2-acetamido-5-bromo-3-nitrobenzotrifluoride | 1.258 mmol, 400 mg | C(C)(=O)NC1=C(C=C(C=C1[N+](=O)[O-])Br)C(F)(F)F | C9H6BrF3N2O3
solvent | HCl | 3.5 mL | Cl | ClH
product | 2-amino-5-bromo-3-nitrobenzotrifluoride | 261 mg, 75.6% | NC1=C(C=C(C=C1[N+](=O)[O-])Br)C(F)(F)F | C7H4BrF3N2O2
